US08049015B2
Cyclopropanecarboxylic acid benzyl-(2-bromo-5-cyano-benzyl)-amide and bis(pinacolato)diboron were reacted as described in Example 1, Step 8 to provide cyclopropanecarboxylic acid benzyl-[5-cyano-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-amide.

reactant | Cyclopropanecarboxylic acid benzyl-(2-bromo-5-cyano-benzyl)-amide | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C#N)Br | C19H17BrN2O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | cyclopropanecarboxylic acid benzyl-[5-cyano-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-amide | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C#N)B1OC(C(O1)(C)C)(C)C | C25H29BN2O3
